US06734306B2
A. 1-[(3S)-1-Azabicyclo[2.2.2]oct-3-yl]-4-benzyl-2,6-piperazinedione
To a solution of N-benzyliminodiacetic acid (2.23 g, 10.0 mmol) in THF (30 mL) was added 1,1′-carbonylbis-1H-imidazole (3.57 g, 22.0 mmol) at room temperature under nitrogen atmosphere. The resulting mixture was stirred at reflux temperature for 30 min (until the evolution of C02 gas ceased, giving a clear solution), then cooled to room temperature. To the resulting mixture was added a solution of (3S)-3-aminoquinuclidine dihydrochloride (2.00 g, 10.0 mmol) and triethylamine (3.06 mL, 22.0 mmol) in THF (10 mL) stirred at room temperature under nitrogen atmosphere for 30 min via a cannula. The combined reaction mixture was stirred under reflux for 24 h, then cooled to room temperature and quenched with H2O (10 mL). The organic layer was extracted with EtOAc (50×2 mL) and the combined organic layers were dried over MgSO4, concentrated in vacuo. The residue was purified by column chromatography (NH gel, 200-350 mesh, 150 g, EtOAc) to give a product (2.17 g, 69%) as a white solid.

reactant | N-benzyliminodiacetic acid | 10.0 mmol, 2.23 g | C(C1=CC=CC=C1)N(CC(=O)O)CC(=O)O | C11H13NO4
reactant | 1,1′-carbonylbis-1H-imidazole | 22.0 mmol, 3.57 g | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | (3S)-3-aminoquinuclidine dihydrochloride | 10.0 mmol, 2.00 g | Cl.Cl.N[C@@H]1CN2CCC1CC2
reactant | triethylamine | 22.0 mmol, 3.06 mL | C(C)N(CC)CC | C6H15N
solvent | THF | 30 mL | C1CCOC1 | C4H8O
solvent | THF | 10 mL | C1CCOC1 | C4H8O
product | 1-[(3S)-1-Azabicyclo[2.2.2]oct-3-yl]-4-benzyl-2,6-piperazinedione | 2.17 g, 69% | N12C[C@H](C(CC1)CC2)N2C(CN(CC2=O)CC2=CC=CC=C2)=O | C18H23N3O2
